US06462198B1
To a solution of 5.0 g (47.0 mmol) cyanogen bromide in 50 ml of methanol was added dropwise over a period of 30 min a solution of 4.80 g (47.0 mmol) butyric acid hydrazide in 50 ml of methanol. The mixture was then refluxed for 15 min, and then concentrated in vacuo till cristallisation began. The cristals (9 g) were filtered off, taken up in 60 ml of ethanol. Then 5 g of finely powdered potassium carbonate were added and the suspension was stirred for 5 min at room temperature. The resulting orange suspension was filtered, and the filtrate was concentrated in vacuo. The resulting orange powder (5.5 g) was purified by flash chromatography on silicagel with a 80:10:1 mixture of methylene chloride/methanol/28% ammonia as eluent to yield 3.95 g (31.1 mmol, 66%) of 5-propyl-[1,3,4]oxadiazol-2-ylamine as white cristals, MS: m/e=127 (M+).

reactant | cyanogen bromide | 47.0 mmol, 5.0 g | N#CBr | CBrN
reactant | butyric acid hydrazide | 47.0 mmol, 4.80 g | C(CCC)(=O)NN | C4H10N2O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 5-propyl-[1,3,4]oxadiazol-2-ylamine | 31.1 mmol, 3.95 g, 66% | C(CC)C1=NN=C(O1)N | C5H9N3O
